US06462075B1
2,6-Di(benzylidene)cyclohexanone.
(75) Cyclohexanone (10 mmol) and benzaldehyde (20 mmol) were used. The reaction stirred for 2 hours. A solid formed and was filtered. Recrystallization from ethanol yielded 2.01 g (73.4%) of bright-yellow flakes: mp 118.1-119.0° C. (lit. mp 116-117° C., Smith, et al., Can. J. Chem., 1973, 51, 1458-1470). 1H NMR (250 MHz) δ 7.83 (s, 2H), 7.50-7.32 (m, 10H), 2.95 (t, 4H), 1.80 (p, 2H); 13C NMR (62.7 MHz) 190.5, 137.1, 136.4, 136.1, 130.5, 128.8, 128.5, 28.6, 23.2 ppm.

reactant | Cyclohexanone | 10 mmol | C1(CCCCC1)=O | C6H10O
reactant | benzaldehyde | 20 mmol | C(C1=CC=CC=C1)=O | C7H6O
product | 2,6-Di(benzylidene)cyclohexanone | C(C1=CC=CC=C1)=C1C(C(CCC1)=CC1=CC=CC=C1)=O | C20H18O
